US08871948B2
To a suspension of 10% Pd/C (380 mg, 0.36 mmol) in 95° ethanol (50 ml) a solution of 2-cyclohexyl-1-ethyl-5-nitro-1H-indole (4.8 g; 18 mmol) in 95° ethanol (100 ml) was added and the mixture underwent hydrogenation in a Parr hydrogenator (H2, 30 psi) for 4 hours. The residue was filtered under vacuum through Celite to remove the catalyst and the solvent evaporated to give crude 2-cyclohexyl-1-ethyl-1H-indol-5-amine (4 g) which was used without any further purification.

reactant | 2-cyclohexyl-1-ethyl-5-nitro-1H-indole | 18 mmol, 4.8 g | C1(CCCCC1)C=1N(C2=CC=C(C=C2C1)[N+](=O)[O-])CC | C16H20N2O2
catalyst | Pd/C | 0.36 mmol, 380 mg | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-cyclohexyl-1-ethyl-1H-indol-5-amine | 4 g | C1(CCCCC1)C=1N(C2=CC=C(C=C2C1)N)CC | C16H22N2
